US08389547B2
Step 1: Ethyl 4,4-dimethylpent-2-enoate
Triethyl phosphonoacetate (17.9 ml, 0.09 mol) was added cautiously over 15 min to a suspension of sodium hydride (60% in oil; 4.4 g, 0.11 mol) in toluene (150 ml). After stirring for a further 45 min, pivaldehyde (11.0 ml, 0.1 mol) was added to the yellow solution and the mixture stirred for 5 h. To the resulting resinous mass was added water (100 ml) followed by citric acid (10%, 50 ml) and the mixture stirred until the appearance of two separate, liquid phases. The organic layer was separated, washed with brine (50 ml), dried (MgSO4) and evaporated to leave the crude product as a yellow oil (13.54 g, 95%). 1H NMR (400 MHz, CDCl3): δ 1.08 (9H, s), 1.29 (3H, t, J 7.1), 4.19 (2H, q, J 7.1), 5.73 (1H, d, J 15.9), 6.97 (1H, d, J 15.9).

reactant | sodium hydride | 0.11 mol, 4.4 g | [H-].[Na+]
reactant | pivaldehyde | 0.1 mol, 11.0 ml | CC(C)(C)C=O | C5H10O
reactant | water | 100 ml | O | H2O
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4,4-dimethylpent-2-enoate | 13.54 g, 95% | CC(C=CC(=O)OCC)(C)C | C9H16O2
